### PR TITLE
Add Erdős Problem 748 (the Cameron–Erdős conjecture), link the formal proof

### LINKED ISSUE #6349: Erdős Problem 748
### What is the Erdős problem?

https://www.erdosproblems.com/748

Let $f(n)$ count the number of sum-free $A\subseteq \{1,\ldots,n\}$, i.e. $A$ contains no solutions to $a=b+c$ with $a,b,c\in A$. Is it true that $f(n)=2^{(1+o(1))\frac{n}{2}}$?

Status: proved (the Cameron–Erdős conjecture; Green [Gr04], Sapozhenko [Sa03]). A formal proof exists in plby/lean-proofs (`Erdos748.erdos_748`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6349.

### What changed
Adds `FormalConjectures/ErdosProblems/748.lean` with `f n` (the number of sum-free subsets of `[1, n]`, via the existing `IsSumFree`):
- `erdos_748` (`research solved`, `answer(True)`): the Cameron–Erdős conjecture `f(n) = 2^{(1+o(1)) n/2}`, formalised as `log₂ f(n) / n → 1/2`. Linked to plby/lean-proofs `Erdos748.erdos_748` (Codex and GPT-5.6 Sol; 2 Mathlib-only files).
- Sorry'd variants: the trivial lower bound `2^{⌊n/2⌋} ≤ f(n)`, Green–Sapozhenko's `f(n) ≪ 2^{n/2}`, and the parity-dependent asymptotic `f(n) ∼ c_n 2^{n/2}`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos748.erdos_748` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge748

lemma isSumFree_iff' (A : Finset ℕ) : IsSumFree (A : Set ℕ) ↔ Erdos748Plby.IsSumFree A := by
  rw [_root_.isSumFree_iff]
  simp only [Finset.mem_coe, Erdos748Plby.IsSumFree]
  exact ⟨fun h b c hb hc => h b hb c hc, fun h b hb c hc => h hb hc⟩

lemma f_eq (n : ℕ) : Erdos748.f n = Erdos748Plby.sumFreeCount n := by
  classical
  unfold Erdos748.f Erdos748Plby.sumFreeCount
  have : ((Finset.Icc 1 n).powerset.filter fun A : Finset ℕ ↦ IsSumFree (A : Set ℕ)) =
      Erdos748Plby.sumFreeSubsets n := by
    ext A
    rw [Erdos748Plby.mem_sumFreeSubsets_iff, Finset.mem_filter, Finset.mem_powerset,
      isSumFree_iff']
  rw [this]

theorem erdos_748_bridge : type_of% Erdos748.erdos_748 := by
  show True ↔ _
  simp only [true_iff, f_eq]
  exact Erdos748Plby.erdos_748

#print axioms Erdos748Plby.erdos_748
#print axioms erdos_748_bridge

end Bridge748
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«748»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/748.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/748.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
